Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Statins-Hmg-Coa Reductase Inhibitors
 
Attending: ___.
 
Chief Complaint:
Confusion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: 
Patient unable to provide history given lethargy.  Obtained
history from daughter (via interpreter) and grand-daughter.  
This
is a ___ year old ___ speaking female with past medical
history of dementia (baseline AOx2-3), hypertension (no longer 
on
antihypertensives), thyroid disease of unknown etiology, recent
unwitnessed fall at home 8 days ago, presenting with 5 days of
worsening confusion.  Per family, patient reported bending over
to pick up food off the floor, and lost her balance, hitting her
the back of her head 8 days prior to presentation.  She denied
loss of consciousness at the time.  Subsequently patient 
reported
some pain at the back of her head, and pain at her R shoulder,
but was otherwise in her normal state of health.  Subsequently
however, 5 days prior to presentation, the family noticed 
patient
was more disorganized and easily confused. She was not oriented
to time or place, and required assistance with eating (example:
she would put food in her spoon, the place the spoon on the 
table
and put her finger in her mouth).  During this time, as per the
family, she did not have diarrhea, constipation, 
nausea/vomiting,
pain with urination, abdominal pain, cough, shortness of breath,
or focal motor/sensory weakness.  No fevers/chills.  Given
worsening confusion, family brought her to ___ ED.  

In ___, ___ .06.  CT torso, head and lumbar spine done
with subluxation seen on CT, prompting transfer to ___.  Of
note, in order to obtain CT, patient was given beneadryl, 
haldol.
In BI ED, vitals 98.0 68 ___. Patient was seen by
trauma surgery who wrote "no indication for trauma surgery
admission"

Full 10 point review of systems positive where noted, otherwise
negative. 
 
Past Medical History:
Dementia
Hypertension
Hyperlipidemia
"Thyroid Disease"
 
Social History:
___
Family History:
Brother had dementia

 
Physical Exam:
ADMISSION
VS: 97.2 92 162/93 20 99%RA
Gen: supine in bed, sleeping, lethargic, arouseable with noxious
stimulation, then opening eyes
Eyes - EOMI, PERRL
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft nontender, normoactive bowel sounds
Ext - no edema; full range of motion at shoulders, elbows,
wrists, hips, knees bilaterally; no point tenderness over spine
Skin - no rashes; small bruise at occiput of head; no other
bruises; no lacterations
Vasc - 2+ DP/radial pulses
Neuro - awaking to noxious stimuli, speaking spontaneously and
answering yes/no questions intermittently, mostly mumbling;
moving all extremities spontaneously; mental status not 
conducive
to indepth neuro exam at this time
Psych - unable to assess given lethargy

DISCHARGE
VS - 97.8 123/62 65 16 98%RA
Gen - initially sleeping, awakening to voice, sitting up in bed, 
comfortable
Eyes - EOMI
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft nontender, normoactive bowel sounds
Ext - no edema
Skin - no rashes
Vasc - 2+ DP/radial pulses
Neuro - AOx3, moving all extremities
Psych - appropriate
 
Pertinent Results:
ADMISSION
___ 02:52AM BLOOD WBC-6.7 RBC-4.31 Hgb-13.0 Hct-40.0 MCV-93 
MCH-30.2 MCHC-32.5 RDW-12.8 RDWSD-43.7 Plt ___
___ 02:52AM BLOOD Glucose-90 UreaN-15 Creat-0.7 Na-141 
K-3.8 Cl-103 HCO3-27 AnGap-15

DISCHARGE
___ 07:15AM BLOOD ALT-12 AST-22 LD(LDH)-227 AlkPhos-81 
TotBili-0.4
___ 07:15AM BLOOD TSH-0.30
___ 07:20AM BLOOD WBC-4.3 RBC-4.06 Hgb-12.3 Hct-37.2 MCV-92 
MCH-30.3 MCHC-33.1 RDW-12.5 RDWSD-42.4 Plt ___
___ 07:20AM BLOOD Glucose-94 UreaN-26* Creat-0.7 Na-138 
K-3.7 Cl-102 HCO3-26 AnGap-14

CT Head - ___
No acute intracranial; no acute fracture or dislocation of the
cervical spine; thyroid hypodenisities and calcifications;
recommend ultrasound

CT Torso with contrast -___
Pericardial effusion.  Multiple renal hypodensities.  Some of
these cannot be characterized as simple cysts.  Recommend CT 
scan
of the abdomen with and without IV contrast.  Thyroid
hypodensities recommend ultrasound.  

CT Lumbar Spine - ___
No fracture or dislocation of lumbar spine is found.  Mild L
lateral L2 on L3 subluxation is seen. Marked L2-L3, L3-L4, L4-L5
spinal stenosis is seen mainly due to impingement by 
hypertrophic
ligamentum flavum.  Advanced L2-3 and moderate L5-S1 
degenerative
lumbar disc disease, mild posterior L4-5 and L5-S1 disc
protrusions are present.

TTE
The estimated right atrial pressure is ___ mmHg. There is mild 
symmetric left ventricular hypertrophy. Overall left ventricular 
systolic function is low normal (LVEF 50-55%). Right ventricular 
chamber size and free wall motion are normal. There is abnormal 
septal motion/position. There are three aortic valve leaflets. 
The aortic valve leaflets are severely thickened. There is no 
aortic valve stenosis. No aortic regurgitation is seen. The 
mitral valve leaflets are moderately thickened; the anterior 
leaflet is thickened with hockey stick appearance which may 
suggest rheumatic mitral valve disease in the correct clinical 
context. No evidence of mitral stenosis. Trivial mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. The estimated pulmonary artery systolic pressure is 
normal. There is a moderate sized pericardial effusion. No right 
atrial or right ventricular diastolic collapse is seen. 
IMPRESSION: Mild LVH with low normal LVEF (50-55%). Thickened 
aortic, mitral, and tricuspid valve leaflets without significant 
valvular stenosis or regurgitation. There is a moderate sized 
pericardial effusion without evidence of right ventricular 
diastolic collapse to suggest tamponade. Tricuspid and mitral 
valve respiratory variability were not assessed in this study. 
 
Brief Hospital Course:
This is a ___ year old ___ speaking female with past 
medical history of dementia, hypertension, unknown thyroid 
disease, recent unwitnessed fall at home 8 days ago, presenting 
with 5 days of worsening confusion, negative workup for 
infectious or metabolic causes

# Dementia with Behavioral Disturbance -  patient with several 
days of confusion following a fall.  On arrival to ___, this 
was difficult to assess secondary to medication effect from 
benadryl and haldol given in ___.  CT head at ___ 
without evidence of acute intracranial process.  There was no 
clear metabolic disturbance on her labs.  No clear signs of 
infection on workup. TSH within normal limits.  Within 24 hours 
patient was non-lethargic, and per family, at her baseline.  At 
this point family was eager to get patient home, as they felt 
being in the hospital was making her more agitated.  At their 
request, we started a trial of increased seroquel (50mg qHS 
instead of 25mg qHS to help with nighttime agitation).  Of note, 
on day of discharge, family mentioned that they believed patient 
actually may have had facial droop and slurred speech around the 
time of her fall (1 week prior), but these quickly resolved over 
hours. This had not recurred since then (they had forgotten to 
mention this on admission). We discussed with 
daughter/granddaughter the concern that the symptoms they 
described could have been a stroke, although CT head did not 
show evidence of this (also could have been TIA); we discussed 
additional workup and management for this, starting with 
MRI--they did not believe the patient would tolerate laying 
still for an MRI, and they did not believe me sedating her for 
an MRI would be consistent with her goals of care.  We talked 
about medications to help prevent future stroke.  She has had 
prior intolerance of statin therapy--could consider starting 
this as outpatient.  Started aspirin.  Family wanted to take 
patient home, and she was recommended for services at 
home--unfortunately insurance would not pay for ___.  Family 
agreed to provide 24 hour care for patient, and at discharge 
social work continued to work on obtaining elder services for 
patient at home. 

# Unwitnessed fall - family brought patient in to the hospital 
in the setting of a recent unwitnessed fall.  No obvious trauma 
on exam.  Head CT without acute process.  Given we could not 
rule out syncope, patient observed on telemetry x 48 hours 
without event, and underwent TTE.  No arrhythmia or evidence of 
severe valvulopathy or decompensated heart failure. As above, 
unable to arrange for services, although family agreed to 
provide 24 hour care. 

# Concern for L2 on L3 subluxation - per ___ scan there 
was L2 on L3 subluxation, prompting transfer to ___.  She was 
evaluated by Ortho spine on the floor who did not believe there 
was any subluxation present.  No additional management 
recommended. 

# Pericardial Effusion - initially seen on CT scan, with 
subsequent moderate size effusion seen on TTE.  Patient was seen 
by cardiology service ___ to have related to potential 
recent viral/idiopathic pericarditis vs malignancy.  They 
recommended age-appropriate malignancy screening and further 
evaluation of the incidental abnormalities (see below), with 
repeat outpatient echocardiogram in ~2 weeks 

Transitional Issues
- Discharged home; attempted to obtain home services for 
patient, but ___ not 
covered by her insurance; family felt comfortable continuing to 
provide 24 hour care for patient; at time of discharge social 
work still investigating if elder services would be possible for 
the patient
- CT Head @ ___ showed: "No acute intracranial; no acute 
fracture or dislocation of the cervical spine; thyroid 
hypodenisities and calcifications; recommend ultrasound "
" CT Torso @ ___ showed: "Pericardial effusion.  Multiple 
renal hypodensities.  Some of these cannot be characterized as 
simple cysts.  Recommend CT scan of the abdomen with and without 
IV contrast.  Thyroid hypodensities recommend ultrasound. "
- Follow-up for pericardial effusion as above
- Currently full code, but believe patient would benefit from 
further discussion about goals as outpatient
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. QUEtiapine Fumarate 25 mg PO QHS 
2. Alendronate Sodium 70 mg PO QMON 
3. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral DAILY 

 
Discharge Medications:
1. QUEtiapine Fumarate 50 mg PO QHS 
RX *quetiapine 50 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0
2. Alendronate Sodium 70 mg PO QMON 
3. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral DAILY 
4. Aspirin 81 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Dementia with Behavioral Disturbance 
# Pericardial Effusion
# Fall
# Abnormal CT Findings

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___: 

It was a pleasure caring for you at ___.  You were admitted 
with confusion and concern for an abnormality of your spine seen 
on CAT scan at ___.  You underwent testing that 
did not show signs of a stroke, infection or other serious 
process.  You were seen by spine doctors, who did not believe 
there was any sign of acute damage to your spine.  

You were found to have fluid around your heart.  You were seen 
by cardiologists that thought this was most likely related to a 
viral infection, but that you needed to have some additional 
testing (a repeat echo of your heart in 2 weeks, further 
evaluation of abnormalities seen in your kidney and thyroid)

We recommend starting a baby aspirin.
 
Followup Instructions:
___